US08664210B2
(E)-3-[3-(R)-Pyrrolidinyl]oxyimino-4,4-dimethylandrostane-5α,6α,17β-triol hydrochloride (I-aq)
The title compound was prepared in 90% yield (121 mg) as described in Example 2 starting from 5α,6α,17β-trihydroxy-4,4-dimethylandrostan-3-one, (Preparation 5, 100 mg) and 3-(R)-pyrrolidinyloxyamine dihydrochloride (Preparation 12, 200 mg).

reactant | 5α,6α,17β-trihydroxy-4,4-dimethylandrostan-3-one | O[C@]12[C@H](C[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CCC(C1(C)C)=O)C)O)O | C21H34O4
reactant | 3-(R)-pyrrolidinyloxyamine dihydrochloride | 200 mg | Cl.Cl.N1C[C@@H](CC1)ON
product | (E)-3-[3-(R)-Pyrrolidinyl]oxyimino-4,4-dimethylandrostane-5α,6α,17β-triol hydrochloride | 90% yield | Cl.N1C[C@@H](CC1)O\N=C/1\C([C@@]2([C@H](C[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)O)O)O)(C)C | InChI=1S/C25H42N2O4.ClH/c1-22(2)19(27-31-15-9-12-26-14-15)8-11-24(4)18-7-10-23(3)17(5-6-20(23)28)16(18)13-21(29)25(22,24)30;/h15-18,20-21,26,28-30H,5-14H2,1-4H3;1H/b27-19+;/t15-,16+,17+,18+,20+,21+,23+,24-,25-;/m1./s1
